### PR TITLE
Partial Evaluation Preserves Well Typedness of Residuals

### PR DESCRIPTION
**Pull request by oflatt**
This PR adds a proof that partial evaluation preserves well-typedness of residuals. This will allow sound repeated application of partial evaluation

### CODE REVIEW

File: cedar-lean/Cedar/Data/Map.lean [hunk 1]
```diff
@@ -85,7 +85,7 @@ def filter {α β} (f : α → β → Bool) (m : Map α β) : Map α β :=
 def size {α β} (m : Map α β) : Nat :=
   m.kvs.length
 
-def mapOnValues {α β γ} [LT α] [DecidableLT α] (f : β → γ) (m : Map α β) : Map α γ :=
+def mapOnValues {α β γ} (f : β → γ) (m : Map α β) : Map α γ :=
```
Comment (oflatt) [inline cedar-lean/Cedar/Data/Map.lean:88]: Is this okay? It seems like it didn't use it

Comment (cdisselkoen) [reply cedar-lean/Cedar/Data/Map.lean:88]: CI passes, so yeah, looks like it wasn't needed. Awesome

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -532,19 +554,98 @@ theorem mapM'_ok_iff_forall₂ {α β γ} {f : α → Except γ β} {xs : List 
...
+  exact mapM'_some_iff_forall₂
+
+
 
 /-- if you use mapM on a list constructed using map
     you can just do one mapM with a combined function
     -/
-theorem mapM_then_map_combiner {α β γ ε} {f : α → β} {g : β → Except ε γ} {xs : List α} :
-  List.mapM g (xs.map f) = List.mapM (fun x => g (f x)) xs
+theorem mapM_map_combiner {α β γ ε} (f : β → Except ε γ) (g : α → β) (xs : List α) :
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: Is this the same as `List.mapM_map` from the stdlib?

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -532,19 +554,98 @@ theorem mapM'_ok_iff_forall₂ {α β γ} {f : α → Except γ β} {xs : List 
...
+  List.mapM f (xs.map g) = List.mapM (fun x => f (g x)) xs
+:= by
+  induction xs
+  case nil =>
+    simp only [map_nil, mapM_nil]
+  case cons head tail ih =>
+    simp only [map_cons, mapM_cons, ih]
+
+
+theorem mapM_map_combiner_option {α β γ} (f : β → Option γ) (g : α → β) (xs : List α) :
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: Could we combine this and the previous theorem by making them generic over a `[Monad m]`?

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean [hunk 4]
```diff
@@ -0,0 +1,327 @@
...
+          rw [h₃] at h₅
+          rw [heq] at h₅
+          simp only [Residual.typeOf] at h₅
+          exact h₅
+        any_goals
+          have h₅ := partial_eval_preserves_typeof h_wf h_ref h₂
+          rw [heq] at h₅
+          rw [h₄] at h₅
+          simp [Residual.typeOf] at h₅
+          exact h₅
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: Instead of these three `any_goals` blocks, can we make them bulleted subblocks with `·`? seems less fragile to future changes

Comment (oflatt) [reply cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: I have 65 goals here, the contradiction handles 32 and the others handle 16 goals each. I'm guessing the compaction is worth it? 
I could expand the ones that handle 16

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean (hunk 2 above)
Comment (oflatt) [reply cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: Oh yep, it is!

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean (hunk 4 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: Ah wasn't aware of this :) Let's leave it as any_goals then

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 5]
```diff
@@ -70,6 +70,28 @@ theorem map_congr {f g : α → β} : ∀ {l : List α},
     let ⟨h₁, h₂⟩ := forall_mem_cons.1 h
     rw [map, map, h₁, map_congr h₂]
 
+theorem map_func_ext {l: List α} {f : α → β} {g : α → β}:
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: This theorem is already defined here: https://github.com/cedar-policy/cedar-spec/blob/835e52238ea0447a7942da3ac2f00239a502e61b/cedar-lean/Cedar/Thm/Data/List/Lemmas.lean#L66

Let's use that version :)

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -1311,6 +1381,24 @@ theorem not_find?_some_iff_find?_none {α} {p : α → Bool} {xs : List α} :
     specialize h x hx
     contradiction
 
+theorem find?_some_is_mem {α} [DecidableEq α] {l : List α} {k : α → Bool} {v : α}
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: This is already defined by Lean: https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Find.html#List.mem_of_find?_eq_some

Let's use the built-in version.

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean [hunk 7]
```diff
@@ -0,0 +1,329 @@
...
+  {env : TypeEnv}
+  {res : Residual}
+  {req : Request}
+  {preq : PartialRequest}
+  {es : Entities}
+  {pes : PartialEntities} :
+  InstanceOfWellFormedEnvironment req es env →
+  RequestAndEntitiesRefine req es preq pes →
+  Residual.WellTyped env res →
+  (TPE.evaluate res preq pes).typeOf = res.typeOf := by
```
Comment (emina) [inline cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: The body of this proof is a bit long.  Let's split it into private auxiliary lemmas that show the property for individual expression kinds.  I'd leave the simple cases inlined (val, var, etc), and then break out anything that requires the inductive hypotheses.

Comment (emina) [reply cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: Formatting:  the proofs are easier to read if `:= by` is on a new line, aligned with `theorem` (so you can quickly see where the theorem statement ends and proof body begins).

File: cedar-lean/Cedar/Thm/TPE/WellTyped.lean [hunk 8]
```diff
@@ -0,0 +1,216 @@
...
+  {env : TypeEnv}
+  {res : Residual}
+  {req : Request}
+  {preq : PartialRequest}
+  {es : Entities}
+  {pes : PartialEntities} :
+  InstanceOfWellFormedEnvironment req es env →
+  RequestAndEntitiesRefine req es preq pes →
+  Residual.WellTyped env res →
+  Residual.WellTyped env (TPE.evaluate res preq pes) := by
```
Comment (emina) [inline cedar-lean/Cedar/Thm/TPE/WellTyped.lean]: Formatting:  the proofs are easier to read if `:= by` is on a new line, aligned with `theorem`.

**Review by emina — CHANGES_REQUESTED** [review]

File: cedar-lean/Cedar/Thm/TPE/WellTyped.lean [hunk 9]
```diff
@@ -0,0 +1,216 @@
...
+    (fun ty => 1 + sizeOf ty) 1 (fun head tail head_ih tail_ih => 1 + head_ih + tail_ih) 1
+    (fun head tail head_ih tail_ih => 1 + head_ih + tail_ih) (fun fst snd snd_ih => 1 + sizeOf fst + snd_ih) hd.snd) := by
+      simp [Residual._sizeOf_1]
+    rw [tmp]
+    simp at ih
+    rw [← ih]
+    congr
+
+
+theorem sizeOf_Residual_record_elems_lt {ls ty} :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/TPE/WellTyped.lean]: This theorem can be written (in Lean 4.22) more simply like this:

```
theorem sizeOf_Residual_record_elems_lt {ls ty} :
  sizeOf ls < sizeOf (Residual.record ls (CedarType.record ty))
:= by
  simp only [Residual.record.sizeOf_spec, CedarType.record.sizeOf_spec]  
  omega  
```

File: cedar-lean/Cedar/Thm/TPE/WellTyped.lean [hunk 10]
```diff
@@ -0,0 +1,216 @@
...
+namespace Cedar.Thm
+
+open Cedar.Thm
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+open Cedar.TPE
+
+
+-- TODO super ugly theorem for sizeOf
```
Comment (emina) [inline cedar-lean/Cedar/Thm/TPE/WellTyped.lean]: This theorem is not needed (see below).

**Review by emina — APPROVED** [review]
Looks great to me!
